US05302593
b) Preparation of 4-(N-methylpiperazinyl)butylamine
Hydrazine (aqueous solution at 35% by wt.) (0.15 ml; 1.6 mmoles) was added to 4-(N-methylpiperazinyl)butylphthalimide (240 mg; 0.8 mmoles) in methanol (5 ml) and the resulting solution was refluxed. Reaction times and process as per Example 1.

reactant | Hydrazine | 1.6 mmoles, 0.15 ml | NN | H4N2
reactant | 4-(N-methylpiperazinyl)butylphthalimide | 0.8 mmoles, 240 mg | CN1C(CNCC1)CCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C17H23N3O2
solvent | methanol | 5 ml | CO | CH4O
product | 4-(N-methylpiperazinyl)butylamine | CN1C(CNCC1)CCCCN | C9H21N3
